US08895313B2
4-Amino-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide
Prepared as described in the Nitro Reduction section using N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]-4-nitrobenzamide (0.10 g, 0.269 mmol) and tin (II) chloride dihydrate (0.30 g, 1.34 mmol) in EtOH (15 ml) to give the title compound (0.072 g, 78%) as a pale yellow solid after work-up and flash chromatography (15:1 DCM/MeOH).

reactant | N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]-4-nitrobenzamide | 0.269 mmol, 0.10 g | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)NC(C2=CC=C(C=C2)[N+](=O)[O-])=O | C21H16N4O3
reactant | tin (II) chloride dihydrate | 1.34 mmol, 0.30 g | O.O.[Sn](Cl)Cl
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | EtOH | 15 ml | CCO | C2H6O
product | 4-Amino-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide | 0.072 g, 78% | NC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2N=C3N(C=C(C=C3)C)C2)C=C1 | C21H18N4O
